US07799806B2
Step 6: 2-Methyl-1-piperidin-4-yl-1H-benzoimidazole-5-carboxylic acid allyl ester dihydrochloride (Intermediate A1)
A solution of 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-2-methyl-1H-benzoimidazole-5-carboxylic acid allyl ester (1.60 g, 4.01 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 300.4 [M+H]+.

reactant | 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-2-methyl-1H-benzoimidazole-5-carboxylic acid allyl ester | 4.01 mmol, 1.60 g | C(C=C)OC(=O)C1=CC2=C(N(C(=N2)C)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H29N3O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-1-piperidin-4-yl-1H-benzoimidazole-5-carboxylic acid allyl ester dihydrochloride | Cl.Cl.C(C=C)OC(=O)C1=CC2=C(N(C(=N2)C)C2CCNCC2)C=C1 | InChI=1S/C17H21N3O2.2ClH/c1-3-10-22-17(21)13-4-5-16-15(11-13)19-12(2)20(16)14-6-8-18-9-7-14;;/h3-5,11,14,18H,1,6-10H2,2H3;2*1H
